US05670511
1.2 9 of 2-(2-chloroethoxy)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione ("D") [obtainable by reaction of N-hydroxy-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione with 1,2-dichloroethane to give 2-(2-chloroethoxy)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione] and 1.0 g of 4-(5-fluoroindol-3-yl)piperidine [obtainable by reaction of N-BOC-4-chloropiperidine with 5-fluoroindole and subsequent removal of the protective group] are dissolved in 200 ml of acetonitrile and the solution is stirred at room temperature for 8 hours. Customary working up gives 2-[2-(4-(5-fluoro-3-indolyl)piperidino)ethoxy]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione, hydrochloride hydrate, m.p. 271°.

reactant | 2-(2-chloroethoxy)-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione | ClCCON1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C14H10ClNO3
reactant | 4-(5-fluoroindol-3-yl)piperidine | 1.0 g | FC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15FN2
reactant | N-BOC-4-chloropiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)Cl | C10H18ClNO2
product | 2-[2-(4-(5-fluoro-3-indolyl)piperidino)ethoxy]-2,3-dihydro-1H-benz[de]isoquinoline-1,3-dione, hydrochloride hydrate | O.Cl.FC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CCON1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | InChI=1S/C27H24FN3O3.ClH.H2O/c28-19-7-8-24-22(15-19)23(16-29-24)17-9-11-30(12-10-17)13-14-34-31-26(32)20-5-1-3-18-4-2-6-21(25(18)20)27(31)33;;/h1-8,15-17,29H,9-14H2;1H;1H2
